US04421758
To 10 ml of an ethereal solution of 425 mg of α-bromomethyl-2,4-dichlorobenzyl alcohol and 340 mg of 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran was added a catalytic amount (2 drops) of phosphorus oxytrichloride, and the mixture was stirred at room temperature for 4 days. 3 drops of triethylamine were then added and the solvent was evaporated off under reduced pressure. The residue was purified by column chromatography through silica gel eluted with a 40:2:1 by volume mixture of hexane, benzene and ethyl acetate, to give 681 mg of the isomer of lesser polarity of trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran as colorless crystals melting at 104°-105° C.

reactant | α-bromomethyl-2,4-dichlorobenzyl alcohol | 425 mg | BrCC(C1=C(C=C(C=C1)Cl)Cl)O | C8H7BrCl2O
reactant | 2-(2,4-dichlorophenoxymethyl)-3,4-dihydro-2H-pyran | 340 mg | ClC1=C(OCC2OC=CCC2)C=CC(=C1)Cl | C12H12Cl2O2
catalyst | phosphorus oxytrichloride | 2 drops | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | trans-6-(2,4-dichlorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran | ClC1=C(OC[C@H]2CCC[C@@H](O2)OC(CBr)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H19BrCl4O3
